US06960601B2
A 30-mg sample of 1-{[2-(2-methylphenyl)-1-(4-chlorophenyl)-1H-imidazol-4-yl]carbonyl}-4-phenyl-4-piperidinol (Table entry 414), was dissolved in 20 mL dichloromethane, and then 5 mL 2M HCl in ether was added to the solution. Evaporation of the solvent at high temperature (ca. 70° C., 16 hr) in a multiple sample evaporator (GeneVac) gave 1-{[1-(4-chlorophenyl)-2-(2-methylphenyl)-1H-imidazol-4-yl]carbonyl}-4-phenyl-1,2,3,6-tetrahydropyridine (yellow solid). 1H NMR (400 MHz, CD3COCD3) δ 8.31 (s, 1H), 7.05-7.35 (m, 13 H), 6.05 (s, 1 H), 4.2 (m, 2 H), 3.85 (m, 2H), 2.5 (m, 2H), 2.0 (s, 3H); LC-MS m/z 454 (MH+), retention time 2.92 min (method 2).

reactant | 1-{[2-(2-methylphenyl)-1-(4-chlorophenyl)-1H-imidazol-4-yl]carbonyl}-4-phenyl-4-piperidinol | CC1=C(C=CC=C1)C=1N(C=C(N1)C(=O)N1CCC(CC1)(O)C1=CC=CC=C1)C1=CC=C(C=C1)Cl | C28H26ClN3O2
reactant | HCl | 2M, 5 mL | Cl | ClH
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 1-{[1-(4-chlorophenyl)-2-(2-methylphenyl)-1H-imidazol-4-yl]carbonyl}-4-phenyl-1,2,3,6-tetrahydropyridine | ClC1=CC=C(C=C1)N1C(=NC(=C1)C(=O)N1CCC(=CC1)C1=CC=CC=C1)C1=C(C=CC=C1)C | C28H24ClN3O
